US05063235
4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepropanol
A mixture of 30.3 g (0.10 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 16.1 g (0.11 mole) of 3-bromo-1-propanol (95% purity, Aldrich), 37.1 g (0.35 mole) of anhydrous sodium carbonate and 1.0 g of potassium iodide in 300 ml of DMF was heated on a steam bath for 20 h. The mixture was converted and the residue partitioned between water and benzene. The benzene layer was washed with water and brine, dried (sodium sulfate) and concentrated to give a gummy solid. The solid was recrystallized from 2-propanol/isopropyl ether to yield 23.3 g (65%) of a white solid, mp 155°-157° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.10 mole, 30.3 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 3-bromo-1-propanol | 0.11 mole, 16.1 g | BrCCCO | C3H7BrO
reactant | sodium carbonate | 0.35 mole, 37.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 1.0 g | [I-].[K+]
product | 4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepropanol | 23.3 g, 65% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCO)(O)C1=CC=C(C=C1)F | C21H25F2NO2
